US05688946
A solution of 3.11 g (9.4 mmol) of ethyl (RS)-α-(sulphonylmethyl)hydrocinnamate guanidine salt in 400 ml of semi-concentrated hydrochloric acid is heated to reflux for 20 hours. Subsequently, the reaction solution is evaporated under reduced pressure and, for purification, the residue obtained is chromatographed on 50 g of silica gel using a 9:1 to 1:1 mixture of water and methanol as the eluent. After lyophilization from water there is obtained 0.6 g of (RS)-α-(sulphonylmethyl)hydrocinnamic acid guanidine salt as a colourless powder, MS: 243 (M-H)-.

reactant | ethyl (RS)-α-(sulphonylmethyl)hydrocinnamate guanidine salt | 9.4 mmol, 3.11 g | NC(=N)N.S(=O)(=O)=CC(C(=O)OCC)CC1=CC=CC=C1
solvent | hydrochloric acid | 400 ml | Cl | ClH
product | (RS)-α-(sulphonylmethyl)hydrocinnamic acid guanidine salt | 0.6 g | NC(=N)N.S(=O)(=O)=CC(C(=O)O)CC1=CC=CC=C1 | InChI=1S/C10H10O4S.CH5N3/c11-10(12)9(7-15(13)14)6-8-4-2-1-3-5-8;2-1(3)4/h1-5,7,9H,6H2,(H,11,12);(H5,2,3,4)
